US04411910
As described in Example 9(a), 4.6 g of 5-(2,4-difluorophenoxy)-4-nitrophthalic acid in 20 ml of absolute tetrahydrofuran is reduced with 100 ml of a 0.3-molar borane-tetrahydrofuran complex solution in tetrahydrofuran and worked up. Crystallization from ethanol yields 1.3 g of 6-(2,4-difluorophenoxy)-5-nitrophthalide, mp 164°-165.5° C.

reactant | 5-(2,4-difluorophenoxy)-4-nitrophthalic acid | 4.6 g | FC1=C(OC2=C(C=C(C(C(=O)O)=C2)C(=O)O)[N+](=O)[O-])C=CC(=C1)F | C14H7F2NO7
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 6-(2,4-difluorophenoxy)-5-nitrophthalide | 1.3 g | FC1=C(OC2=C(C=C3COC(=O)C3=C2)[N+](=O)[O-])C=CC(=C1)F | C14H7F2NO5
